US06696437B1
a) 2-(Benzimidazol-5-yl)benzimidazole-4-carboxylic Acid
2 g (12 mmol) of methyl 2,3-diaminobenzoate and 2 g (12 mmol) of benzimidazole-5-carboxylic acid were successively introduced into 70 ml of polyphosphoric acid preheated to 90° C. The mixture was then heated at 200° C. for 1 hour. The reaction mixture was subsequently cooled to 50 to 60° C. and poured cautiously into ice-water. The resulting precipitate was filtered off with suction and dried. 2.7 g of the product were obtained.

reactant | methyl 2,3-diaminobenzoate | 12 mmol, 2 g | NC1=C(C(=O)OC)C=CC=C1N | C8H10N2O2
reactant | benzimidazole-5-carboxylic acid | 12 mmol, 2 g | N1=CNC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
product | 2-(Benzimidazol-5-yl)benzimidazole-4-carboxylic Acid | 2.7 g | N1=CNC2=C1C=CC(=C2)C=2NC1=C(N2)C=CC=C1C(=O)O | C15H10N4O2
